US08957062B2
Step A: 2-((1S,2R)-2-(piperidin-4-yl)cyclopropyl)ethanol
Benzyl 4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate (10 g, 33 mmol) was dissolved in 100 mL of EtOAc/MeOH (1:1 v/v), to which was added 1 g of 5% Pd/C and apply hydrogen balloon. After stirring at rt for 1 h, the reaction mixture was filtered through Celite to give the product that was used in the next step without further purification. Rf was 0 @ 50% EtOAc in hexanes (blue spot on CAM stain).

reactant | Benzyl 4-((1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate | 33 mmol, 10 g | OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H25NO3
reactant | hydrogen | [H][H] | H2
solvent | EtOAc MeOH | 100 mL | CCOC(=O)C.CO
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 2-((1S,2R)-2-(piperidin-4-yl)cyclopropyl)ethanol | N1CCC(CC1)[C@@H]1[C@@H](C1)CCO | C10H19NO
